US04219657
(D) Dibenzothiophene-3-carboxylic acid ethyl ester
To a solution of 2.5 g. of 1,2,3,4-tetrahydrodibenzothiophene-3-carboxylic acid ethyl ester in 100 ml. of dioxane was added 4.7 g. of 2,3-dichloro-5,6dicyano-1,4-benzoquinone. The solution was stirred and refluxed for 31 hours. The solution was cooled and the hydroquinone filtered off. The dioxane was removed on a steam bath under reduced pressure. The residue was dissolved in 100 ml. of methylene chloride and the solution passed through a column containing about 75 g. of alumina (Woelm, grade 1). The solvent was removed on a steam bath and the residue crystallized from hexane. The yield of dibenzothiophene-3-carboxylic acid ethyl ester, m.p. 74°-78° was 1.7 g.

reactant | 1,2,3,4-tetrahydrodibenzothiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CCC2=C(SC3=C2C=CC=C3)C1 | C15H16O2S
reactant | 2,3-dichloro-5,6dicyano-1,4-benzoquinone | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Dibenzothiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CC2=C(SC3=C2C=CC=C3)C1 | C15H12O2S
